US03988338
4-(n-Hexylamino)pyrrolo[2,3-d]pyrimidine:
Into a flask equipped with a stirring bar and reflux condenser were introduced 4-(n-hexylamino)-2-methylthio-pyrrolo[2,3-d]-pyrimidine (100 mg) and 5 ml of Raney nickel ethanolic slurry (c.a. 0.6 g/ml; 10 months old). The mixture was heated at reflux and additional 5 ml portions of Raney nickel slurry were added at 12 hour intervals for 48 hours at which point tlc (24:1 CHCl3 -MeO) indicated that the reaction was complete. The Raney nickel was removed by filtration through Celite. Evaporation of the solvent afforded a tan solid (79 mg; 95%) which was purified by preparative tlc on silica using a solvent system of 4:1 benzene-ethanol. This purification yielded a white solid, m.p. 147°-148° C.; C12H18N4 (M+ calculated: 218.15314; found: 218.15365);

reactant | 4-(n-hexylamino)-2-methylthio-pyrrolo[2,3-d]-pyrimidine | 100 mg | C(CCCCC)NC1=C2C(NC(=N1)SC)=NC=C2 | C13H20N4S
catalyst | Raney nickel | 5 ml | [Ni] | Ni
product | 4-(n-Hexylamino)pyrrolo[2,3-d]pyrimidine | C(CCCCC)NC1=C2C(NC=N1)=NC=C2 | C12H18N4
